US06982278B2
A solution of 2-(4-{2-[2-(4-methoxy-phenyl)-5-methyl-oxazol-4-yl]-ethoxy}-phenoxy)-2-methyl-propionic acid ethyl ester (0.036 g, 0.0819 mmol) in ethanol (5 mL) was treated with 5 N NaOH (0.1 mL) and the reaction heated to reflux for 1 h. The reaction mixture was cooled and the solvent removed in vacuo. The resultant oil was acidified with 1 N HCl and extracted with EtOAc and water. The organic layer was dried (MgSO4) and the solvent removed in vacuo to afford 0.034 g (100%) of 2-(4-{2-[2-(4-methoxy-phenyl)-5-methyl-oxazol-4-yl]-ethoxy}-phenoxy)-2-methyl-propionic acid. 1H NMR (500 MHz, CDCl3) δ 7.93 (d, 2H, J=8.60 Hz), 6.94 (d, 2H, J=8.60 Hz), 6.90-6.87 (m, 2H), 6.79-6.77 (m, 2H), 4.17 (t, 2H, J=6.45 Hz), 3.85 (s, 3H), 2.98 (t, 2H, J=6.45 Hz), 2.36 (s, 3H), 1.52 (s, 6H); HRMS (ES+) m/z exact mass calcd for C23H26NO6 412.1760, found 412.1783The following compounds were prepared following the same procedure using ethyl iodide, 2-iodopropane, 1-iodopropane, and 1-iodohexane, respectively:

reactant | 2-(4-{2-[2-(4-methoxy-phenyl)-5-methyl-oxazol-4-yl]-ethoxy}-phenoxy)-2-methyl-propionic acid ethyl ester | 0.0819 mmol, 0.036 g | C(C)OC(C(C)(C)OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)OC)=O | C25H29NO6
reactant | NaOH | 5 N, 0.1 mL | [OH-].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-(4-{2-[2-(4-methoxy-phenyl)-5-methyl-oxazol-4-yl]-ethoxy}-phenoxy)-2-methyl-propionic acid | 0.034 g, 100% | COC1=CC=C(C=C1)C=1OC(=C(N1)CCOC1=CC=C(OC(C(=O)O)(C)C)C=C1)C | C23H25NO6
